US06426362B1
hesperetin;
rutin, 3-[[6-O-(6-Deoxy-α-L-mannopyranosyl)-β-D-glucopyranosyl]oxy]-2-(3,4-dihydroxyphenyl)-5,7-dihydroxy-4H-1-benzopyran-4-one; rutoside; quercetin-3-rutinoside; 3,3′,4′,5,7-pentahydroxyflavone-3-rutinoside; melin; phytomelin; eldrin; ilixathin; sophorin; globularicitrin; paliuroside; osyritrin; osyritin; myrticolorin; violaquercitrin; Birutan; Rutabion; Rutozyd; Tanrutin;

reactant | rutin | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC3=C(OC=4C=C(C=C(C4C3=O)O)O)C=5C=CC(=C(C5)O)O)O)O)O)O)O)O | C27H30O16
reactant | 3-[[6-O-(6-Deoxy-α-L-mannopyranosyl)-β-D-glucopyranosyl]oxy]-2-(3,4-dihydroxyphenyl)-5,7-dihydroxy-4H-1-benzopyran-4-one | [C@@H]1([C@H](O)[C@H](O)[C@@H](O)[C@@H](O1)C)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)OC1=C(OC2=C(C1=O)C(=CC(=C2)O)O)C2=CC(=C(C=C2)O)O)O)O)O | C27H30O16
reactant | quercetin-3-rutinoside | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC3=C(OC4=CC(=CC(=C4C3=O)O)O)C5=CC(=C(C=C5)O)O)O)O)O)O)O)O | C27H30O16
reactant | ilixathin | CC1C(C(C(C(O1)OCC2C(C(C(C(O2)OC3=C(OC4=CC(=CC(=C4C3=O)O)O)C5=CC(=C(C=C5)O)O)O)O)O)O)O)O | C27H30O16
reactant | sophorin | C1[C@H]2CNC[C@@H]1C3=CC=CC(=O)N3C2 | C11H14N2O
product | hesperetin | COC=1C=CC(=CC1O)[C@@H]2CC(=O)C=3C(=CC(=CC3O2)O)O | C16H14O6
